US03988457
A solution of 3.4 g. of 1-(5-methoxy-β-naphthylmethyl)-4-(2-pyridyl)piperazine in 100 ml. of 48% hydrogen bromide is refluxed for 3 hours. The mixture is cooled, concentrated and treated with sodium carbonate. The mixture is extracted with chloroform and the chloroform extractions are dried to yield 1-(5-hydroxy-β-naphtylmethyl)-4-(2-pyridyl)piperazine.

reactant | 1-(5-methoxy-β-naphthylmethyl)-4-(2-pyridyl)piperazine | COC1=C2C=CC(=CC2=CC=C1)CN1CCN(CC1)C1=NC=CC=C1 | C21H23N3O
reactant | hydrogen bromide | Br | BrH
product | 1-(5-hydroxy-β-naphtylmethyl)-4-(2-pyridyl)piperazine | OC1=C2C=CC(=CC2=CC=C1)CN1CCN(CC1)C1=NC=CC=C1 | C20H21N3O
